US07696213B2
2-Amino-8-isopropyl-4-methyl-6-(1H-1,2,3-triazol-4-yl)pyrido[2,3-d]pyrimidin-7(8H)-one (Compound 264)
To a solution of (4-(2-amino-8-isopropyl-4-methyl-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-6-yl)-1H-1,2,3-triazol-1-yl)methyl diethylcarbamate (38 mg, 0.092 mmol) in MeOH (0.5 mL) was added aqueous NaOH (1.0 M, 0.20 mL, 0.20 mmol) and the reaction mixture was stirred at 85° C. for 2 days. There is about 90% conversion from LCMS. Solvent was evaporated and the residue was purified by flash chromatography eluting with MeOH/CHCl3 (0-5%) to give the title (8 mg, 30%).

reactant | (4-(2-amino-8-isopropyl-4-methyl-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-6-yl)-1H-1,2,3-triazol-1-yl)methyl diethylcarbamate | 0.092 mmol, 38 mg | C(C)N(C(OCN1N=NC(=C1)C1=CC2=C(N=C(N=C2C)N)N(C1=O)C(C)C)=O)CC | C19H26N8O3
reactant | NaOH | 0.20 mmol, 1.0 M, 0.20 mL | [OH-].[Na+]
solvent | MeOH | 0.5 mL | CO | CH4O
product | 2-Amino-8-isopropyl-4-methyl-6-(1H-1,2,3-triazol-4-yl)pyrido[2,3-d]pyrimidin-7(8H)-one | NC=1N=C(C2=C(N1)N(C(C(=C2)C=2N=NNC2)=O)C(C)C)C | C13H15N7O
